US06340759B1
(244-1) 2-Cyano-3-(4-methoxyphenyl)ethynylpyridine
A mixture of 3-bromo-2-cyanopyridine (3.63 g, 19.8 mmol), 4-ethynylanisole (3.15 g, 1.2 equivalents), dichlorobis(triphenylphosphine)palladium (II) (0.28 g, 0.02 equivalent), copper (I) iodide (0.14 g), triethylamine (60 ml) and dry pyridine (6 ml) was heated under reflux in nitrogen atmosphere for 12.5 hr. After the mixture was cooled as it was, ethyl acetate and a 10% aqueous solution of sodium carbonate were added thereto. The resulting mixture was stirred, and the resulting insoluble matters were filtered off. The organic layer was separated and washed with water/brine (1:1 (v/v)) and brine in this order, and then dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (n-hexane/ethyl acetate/chloroform/methanol system). The resulting product was recrystallized from chloroform/n-hexane, to give the title compound as a pale yellow powder (3.53 g, yield; 81%).

reactant | 3-bromo-2-cyanopyridine | 19.8 mmol, 3.63 g | BrC=1C(=NC=CC1)C#N | C6H3BrN2
reactant | 4-ethynylanisole | 3.15 g, 1.2 equivalents | C(#C)C1=CC=C(C=C1)OC | C9H8O
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium | 0.28 g, 0.02 equivalent | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.14 g | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 2-Cyano-3-(4-methoxyphenyl)ethynylpyridine | 3.53 g, yield; 81% | C(#N)C1=NC=CC=C1C#CC1=CC=C(C=C1)OC | C15H10N2O
